US04242121
3-Chloro-6-(3'-methylphenoxy)benzoic Acid
Sodium (2.41 g) was dissolved in methanol and the solution placed under dry oxygen-free nitrogen. 2,5-Dichlorobenzoic acid (10 g), m-cresol (30 g) and activated copper powder (0.5 g) were added and the methanol removed by distillation. The temperature was increased to 180° with vigorous stirring and this temperature was maintained for 3 hours. The solution was cooled and steam distilled to remove the excess phenol. The resulting solution was filtered, cooled to room temperature and acidified with hydrochloric acid to give an oil. The oil slowly solidified; it was filtered off, dried, and washed with petroleum ether (30°-40° ). It was recrystallised at -10° from diethyl ether/petroleum ether (30°-40° ) to give, as a grey solid, the title compound (4.5 g), mp 124°-125° C.

reactant | Sodium | 2.41 g | [Na] | Na
reactant | 2,5-Dichlorobenzoic acid | 10 g | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | m-cresol | 30 g | C1=C(C=CC=C1O)C | C7H8O
solvent | methanol | CO | CH4O
catalyst | copper | 0.5 g | [Cu] | Cu
product | 3-Chloro-6-(3'-methylphenoxy)benzoic Acid | 4.5 g | ClC=1C=C(C(=O)O)C(=CC1)OC1=CC(=CC=C1)C | C14H11ClO3
